US09302996B2
In trifluoroacetic acid (2.0 mL) and water (0.2 mL) was dissolved 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclobutanecarboxylic acid (202 mg), and the solution was stirred at 50° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, the pH of the residue was made 4 with a saturated aqueous sodium hydrogen carbonate solution and 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with a saturated brine, the organic layer was separated and concentrated under reduced pressure. Isopropyl ether was added to the obtained residue, and the precipitated solid was collected by filtration and dried under reduced pressure to obtain 1-{[(5-{3-chloro-4-[5-(trifluoromethyl)-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclobutanecarboxylic acid (137 mg).

reactant | 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclobutanecarboxylic acid | 202 mg | ClC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC1(CCC1)C(=O)O)C | C28H33ClF3N3O4Si
solvent | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.2 mL | O | H2O
product | 1-{[(5-{3-chloro-4-[5-(trifluoromethyl)-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclobutanecarboxylic acid | 137 mg | ClC=1C=C(C=CC1C=1NC(=CN1)C(F)(F)F)C=1C(=CC(=NC1)OCC1(CCC1)C(=O)O)C | C22H19ClF3N3O3
